US08124606B2
Compound 89: (R)-6-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinonitrile:
(R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one (80.0 mg, 0.318 mmol) was suspended in propionitrile (0.8 mL) and (cyanomethyl)trimethylphosphonium iodide (93.0 mg, 0.382 mmol) was added followed by N-ethyl-N-isopropylpropan-2-amine (167 ul, 0.955 mmol). To the stirred mixture was then added 6-(piperazin-1-yl)nicotinonitrile (59.9 mg, 0.318 mmol). The reaction was heated to 90° C. with stirring for 16 h. The reaction was cooled to room temperature and left to sit 48 h. The precipitate was filtered off, washed with ethanol (5 mL) and dried in vacuum to afford the title compound (53.9 mg, 40.2%) as a white solid. 1H NMR (CHLOROFORM-d) δ (ppm): 8.41 (d, J=1.8 Hz, 1H), 7.78 (d, J=1.8 Hz, 2H), 7.62 (dd, J=8.8, 2.3 Hz, 1H), 6.95 (br. s., 1H), 6.60 (d, J=8.8 Hz, 1H), 5.06 (dt, J=13.6, 2.8 Hz, 1H), 4.43 (dd, J=10.4, 3.3 Hz, 1H), 3.70 (br. s., 4H), 3.45 (br. s., 2H), 3.15 (td, J=12.9, 2.3 Hz, 1H), 3.00 (td, J=12.8, 2.8 Hz, 1H), 2.78-2.94 (m, 2H), 2.54 (br. s., 4H), 2.40 (dd, J=13.6, 1.5 Hz, 1H). [M+H] calc'd for C21H23N7OS, 422. found, 422.

reactant | (R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one | 0.318 mmol, 80.0 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O | C11H13N3O2S
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.382 mmol, 93.0 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.955 mmol, 167 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 6-(piperazin-1-yl)nicotinonitrile | 0.318 mmol, 59.9 mg | N1(CCNCC1)C1=NC=C(C#N)C=C1 | C10H12N4
solvent | propionitrile | 0.8 mL | C(CC)#N | C3H5N
product | (R)-6-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinonitrile | 53.9 mg, 40.2% | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=NC=C(C#N)C=C3)CCSC2 | C21H23N7OS
